US08202865B2
Step 2: methyl 4-[amino(hydroxyimino)methyl]-2-methoxybenzoate
To a suspension of methyl 4-cyano-2-methoxybenzoate, obtained in step 1 (155 mg; 0.81 mmol; 1 eq.) in EtOH (1.55 mL) was added hydroxylamine (50% in water) (0.24 mL; 4.05 mmol; 5 eq.). The reaction mixture was stirred at 60° C. for 60 min. Solvents were removed to dryness, to afford the title compound as a yellow powder. 1H NMR (DMSO-d6, 400 MHz) δ 10.62 (br s, 1H), 9.85 (s, 1H), 7.64 (d, J=7.9 Hz, 1H), 7.40 (s, 1H), 7.35-7.31 (m, 2H), 5.95 (br s, 2H), 3.85 (s, 3H), 3.78 (s, 3H).

reactant | methyl 4-cyano-2-methoxybenzoate | C(#N)C1=CC(=C(C(=O)OC)C=C1)OC | C10H9NO3
reactant | hydroxylamine | 4.05 mmol, 0.24 mL, 5 eq. | NO | H3NO
solvent | EtOH | 1.55 mL | CCO | C2H6O
product | methyl 4-[amino(hydroxyimino)methyl]-2-methoxybenzoate | NC(C1=CC(=C(C(=O)OC)C=C1)OC)=NO | C10H12N2O4
